US04589905
A solution of 2.47 g of 5-cyano-1-(4-chlorophenyl)-1H-pyrazole-4-carboxylic acid and 2.03 g of carbonyldiimidazole dissolved in 25 ml of DMF was stirred at room temperature for approximately 15 minutes. Seven milliliters of cyclopropylamine was next added to the reaction mixture which was allowed to stir for approximately 16 hours. The mixture was poured into 150 ml of ice water and the precipitated solid was collected by filtration. This solid was recrystallized from ethanol and dried to afford 1.86 g of 5-cyano-1-(4-chlorophenyl)-N-cyclopropyl-1H-pyrazole-4-carboxamide. MP=204°-206° C.

reactant | 5-cyano-1-(4-chlorophenyl)-1H-pyrazole-4-carboxylic acid | 2.47 g | C(#N)C1=C(C=NN1C1=CC=C(C=C1)Cl)C(=O)O | C11H6ClN3O2
reactant | carbonyldiimidazole | 2.03 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | cyclopropylamine | Seven milliliters | C1(CC1)N | C3H7N
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 5-cyano-1-(4-chlorophenyl)-N-cyclopropyl-1H-pyrazole-4-carboxamide | 1.86 g | C(#N)C1=C(C=NN1C1=CC=C(C=C1)Cl)C(=O)NC1CC1 | C14H11ClN4O
